US07709490B2
7-(4,5-Diphenylpyrimidin-2-yl)-6-heptynoic Acid
88 mg (0.7 mmol) of 6-heptynoic acid, 6 mg (0.07 eq.) of copper(I) iodide and 14 mg (0.04 eq.) of bis(triphenylphosphine)palladium(II) chloride were added to a solution of 114 mg (0.5 mmol) of 2-chloro-4,5-diphenylpyrimidine in 5 ml of triethylamine, and the mixture was stirred at 50° C. for 1 hour. The residue after evaporation was purified by preparative HPLC (method A). 6 mg (3%) of the desired product were obtained.

reactant | 6-heptynoic acid | 0.7 mmol, 88 mg | C(CCCCC#C)(=O)O | C7H10O2
reactant | 2-chloro-4,5-diphenylpyrimidine | 0.5 mmol, 114 mg | ClC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 6 mg, 0.07 eq. | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 14 mg, 0.04 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(4,5-Diphenylpyrimidin-2-yl)-6-heptynoic Acid | 6 mg, 3% | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)C#CCCCCC(=O)O | C23H20N2O2
